US04249932
Preparation of 2,2-dimethyl-3-(p-toluene-sulfonyl carbamyl) 5-phenoxymethyl oxazolidine
To 20.7 milliliters of 2,2-dimethyl-5-phenoxymethyl oxazolidine, 25 percent w/v in 50 milliliters of benzene was added 419 grams of p-toluene sulfonyl isocyanate. Upon completion of the reaction the solvent, benzene, was removed in vacuo. There was obtained 12.8 grams of the title compound, as a glass. Analytical data supports the structure.

reactant | 2,2-dimethyl-5-phenoxymethyl oxazolidine | 20.7 milliliters | CC1(OC(CN1)COC1=CC=CC=C1)C | C12H17NO2
reactant | p-toluene sulfonyl isocyanate | 419 grams | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-3-(p-toluene-sulfonyl carbamyl) 5-phenoxymethyl oxazolidine | 12.8 grams | CC1(OC(CN1C(NS(=O)(=O)C1=CC=C(C=C1)C)=O)COC1=CC=CC=C1)C | C20H24N2O5S
